US06355636B1
6-Amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile
A mixture of 11.2 g (30.3 mmol) of 4-(3-bromo-phenylamino)-6-nitro-[1.8]naphthyridine-3-carbonitrile, 5.1 g (90.8 mmol) of powdered iron, and 8.1 g (151 mmol) of ammonium chloride was mechanically stirred at reflux in a mixture of 330 ml water and 560 ml methanol for 40 min. The liquid layer was decanted from the solids and diluted with ethyl acetate, saturated sodium bicarbonate, and brine. This mixture was extract multiple times with ethyl acetate (final volume 3500 ml). The combined extracts were dried with magnesium sulfate and filter through a short column of silica gel. The solvent was removed and the residue was stirred with ether. The solid was collected and dried give 8.04 g of the title compound as an orange solid: mass spectrum (electrospray, m/e): M+H 340, 342.1.

reactant | 4-(3-bromo-phenylamino)-6-nitro-[1.8]naphthyridine-3-carbonitrile | 30.3 mmol, 11.2 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=NC=C(C=C12)[N+](=O)[O-])C#N | C15H8BrN5O2
reactant | ammonium chloride | 151 mmol, 8.1 g | [Cl-].[NH4+]
solvent | water | 330 ml | O | H2O
solvent | methanol | 560 ml | CO | CH4O
catalyst | iron | 90.8 mmol, 5.1 g | [Fe] | Fe
product | 6-Amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile | 8.04 g | NC=1C=C2C(=C(C=NC2=NC1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
